US04775671
15.0 g (42 mmol) of 1-[[(S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-1-yl]carbonyl]imidazole are dissolved in 60 ml of N,N-dimethylformamide, whereupon the solution is treated with 4.60 g (46 mmol) of cyclopropanecarboxamidoxime and the mixture is heated to 100° for 2 hours. The mixture is evaporated to dryness, the residue is treated with 50 ml of acetic acid and the mixture is stirred at 115° for 2 hours. After evaporation of the solvent the residue is partitioned between methylene chloride and saturated sodium bicarbonate solution. The organic phase is separated, dried over magnesium sulphate and concentrated. The residue is chromatographed on silica gel while eluting with ethyl acetate. After recrystallization from ethyl acetate there is obtained (S)-8-chloro-1-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one of melting point 140°-142°.

reactant | 1-[[(S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-1-yl]carbonyl]imidazole | 42 mmol, 15.0 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)N3C=NC=C3)CC1)=O | C17H12ClN5O2
reactant | cyclopropanecarboxamidoxime | 46 mmol, 4.60 g | C1(CC1)C(N)=NO | C4H8N2O
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | (S)-8-chloro-1-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NC(=NO3)C3CC3)CC1)=O | C18H14ClN5O2
